US05200110
450 cm3 of anhydrous ethanol saturated with dried gaseous ammonia was added to 4-bromo-3,5-difluorobenzimidate hydrogen chloride and stirred overnight at room temperature. About one-half of the volume of the solvent was distilled off and the residue was recrystallized to yield 90 g (0.36 mol) of 4-bromo-3,5-difluorobenzamidine hydrogen chloride.

reactant | ammonia | N | H3N
reactant | 4-bromo-3,5-difluorobenzimidate hydrogen chloride | Cl.BrC1=C(C=C(C(O)=N)C=C1F)F
solvent | ethanol | 450 cm3 | C(C)O | C2H6O
product | 4-bromo-3,5-difluorobenzamidine hydrogen chloride | 0.36 mol, 90 g | Cl.BrC1=C(C=C(C(=N)N)C=C1F)F | InChI=1S/C7H5BrF2N2.ClH/c8-6-4(9)1-3(7(11)12)2-5(6)10;/h1-2H,(H3,11,12);1H
